US05434181
A mixture comprising 0.25 g of 1-[N-{(tetrahydro-3-furanyl)methyl}-N-propylamino]-1-methylthio-2-nitroethylene and 1 ml of 70% aqueous ethylamine solution was stirred for an hour at room temperature. After concentration of the mixture under a reduced pressure, the reaction fluid was purified by silica gel column chromatography (eluent: ethyl acetate/methanol=7/1) to obtain 0.25 g of 1-[N-{(tetrahydro-3-furanyl)methyl}-N-propylamino]-1-ethylamino-2-nitroethylene.

reactant | 1-[N-{(tetrahydro-3-furanyl)methyl}-N-propylamino]-1-methylthio-2-nitroethylene | 0.25 g | O1CC(CC1)CN(CCC)C(=C[N+](=O)[O-])SC | C11H20N2O3S
reactant | ethylamine | 1 ml | C(C)N | C2H7N
product | 1-[N-{(tetrahydro-3-furanyl)methyl}-N-propylamino]-1-ethylamino-2-nitroethylene | 0.25 g | O1CC(CC1)CN(CCC)C(=C[N+](=O)[O-])NCC | C12H23N3O3
